US07012075B2
To a solution of the crude 4-methyl-2-[(5-phenyl-4H-1,2,4-triazol-3-yl)sulfanyl]pentanoic acid in DMF (10 mL) was added aminoacetonitrile hydrochloride (427 mg, 4.62 mmoles) and HATU (1.76 g, 4.62 mmoles). After stirring for 30 seconds, triethylamine (1.3 mL, 9.24 mmoles) was added in one portion. The reaction was stirred overnight, diluted with ethyl acetate and water. The organic phase was separated and washed twice with 1.2 N hydrochloric acid, brine and dried over magnesium sulfate. After concentration under reduced pressure, N-(cyanomethyl)-4-methyl-2-[(5-phenyl-4H-1,2,4-triazol-3-yl)sulfanyl]pentanamide was obtained. MS (−APCI): 328.2 [M−1]−.

reactant | 4-methyl-2-[(5-phenyl-4H-1,2,4-triazol-3-yl)sulfanyl]pentanoic acid | CC(CC(C(=O)O)SC1=NN=C(N1)C1=CC=CC=C1)C | C14H17N3O2S
reactant | aminoacetonitrile hydrochloride | 4.62 mmoles, 427 mg | Cl.NCC#N
reactant | HATU | 4.62 mmoles, 1.76 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 9.24 mmoles, 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(cyanomethyl)-4-methyl-2-[(5-phenyl-4H-1,2,4-triazol-3-yl)sulfanyl]pentanamide | C(#N)CNC(C(CC(C)C)SC1=NN=C(N1)C1=CC=CC=C1)=O | C16H19N5OS
